US04808605
22.9 g (72 mmol) of 1-[2-(N-benzyl-N-methylamino)ethyl]-2-benzimidazolinone hydrochloride are dissolved in 250 ml of methanol, treated with 2.5 g of palladium-on-carbon (10%) and hydrogenated at room temperature for 90 minutes. The residue obtained after filtration and concentration is recrystallized from methanol/ether, whereby there are obtained 15.5 g (94%) of 1-[2-(methylamino)ethyl]-2-benzimidazolinone hydrochloride, m.p. 177°-180°.

reactant | 1-[2-(N-benzyl-N-methylamino)ethyl]-2-benzimidazolinone hydrochloride | 72 mmol, 22.9 g | Cl.C(C1=CC=CC=C1)N(C)CCN1C(NC2=C1C=CC=C2)=O
solvent | methanol | 250 ml | CO | CH4O
catalyst | palladium-on-carbon | 2.5 g | [Pd] | Pd
product | 1-[2-(methylamino)ethyl]-2-benzimidazolinone hydrochloride | 15.5 g, 94% | Cl.CNCCN1C(NC2=C1C=CC=C2)=O | InChI=1S/C10H13N3O.ClH/c1-11-6-7-13-9-5-3-2-4-8(9)12-10(13)14;/h2-5,11H,6-7H2,1H3,(H,12,14);1H
